### ISSUE TITLE
Issue in `[elabAsElim]` generalization order

### ISSUE THREAD

**Issue by digama0** [leanprover/lean4#1679]
Lean 3:
```lean
@[elab_as_eliminator] theorem eq.subst' {α} {motive : α → Prop} {a b : α} :
  a = b → motive a → motive b := eq.subst

example {α} (P : α → Prop) {a b} (e : a = b) (h : P a) : P b :=
begin
  refine eq.subst' e _,
  -- goal is |- P a
  exact h
end
```
Lean 4:
```lean
@[elabAsElim] theorem Eq.subst' {α} {motive : α → Prop} {a b : α} :
  a = b → motive a → motive b := Eq.subst

example {α} (P : α → Prop) {a b} (e : a = b) (h : P a) : P b := by
  refine Eq.subst' e ?_
  -- goal is |- P b, should be |- P a
  exact h
```

In the `elabAsElim` implementation, we go over all the arguments and delay all elaboration goals except for the target(s) (that's `b` here) and the motive (not provided). In particular, that means we don't elaborate the `e` argument here, so when we get through all the arguments the `b` argument of `Eq.subst'` is still a metavariable, and the `kabstract` fails to generalize anything, which is why the goal is still `P b` after the refine.

In the [lean 3 code](https://github.com/leanprover-community/lean/blob/master/src/frontends/lean/elaborator.cpp#L482-L498) we use more than just the targets to synthesize the motive. If I'm reading the code right, it considers arguments which are "first order" (meaning all applications in the type have a `const` at the head) and also have an fvar in the type which is also a target. In this case the check would pass for the `e` argument because it is first order (the only application head is `Eq`), and it references `b` which is an fvar and a target.

This should probably be implemented as a preprocessing step on the eliminator, stored in the `ElimInfo`.
